US07592373B2
4.278.a. cyclopropylmethyl-[2-(2-methoxy-4-nitrophenoxy)ethyl]methylamine
Prepared analogously to Example 1.1.c. from 1 g (3.62 mmol) of 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 900 mg (10.57 mmol) of cyclopropylmethylamine. Yield: 0.95 g (94% of theory); C14H20N2O4 (M=280.32); calc.: molecular ion peak (M+H)+: 281; found: molecular ion peak (M+H)+: 281; Rf value: 0.4 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 3.62 mmol, 1 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | cyclopropylmethylamine | 10.57 mmol, 900 mg | C1(CC1)CN | C4H9N
reactant | dichloromethane methanol | ClCCl.CO
product | cyclopropylmethyl-[2-(2-methoxy-4-nitrophenoxy)ethyl]methylamine | C1(CC1)CN(C)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C14H20N2O4
